US08198269B2
(3) Synthesis of (R)-2-methoxymethoxy-3-buten-1-ol
Example 8-(2) (11.3 g) in tetrahydrofuran (220 mL), and the mixture was stirred at room temperature for two hours. Saturated aqueous sodium chloride and ethyl acetate were added to the reaction solution, and the organic layer was separated. Ethyl acetate was added to the aqueous layer, and the organic layer was separated again. The combined organic layers were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (4.15 g).

reactant | sodium chloride | [Cl-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 220 mL | O1CCCC1 | C4H8O
product | (R)-2-methoxymethoxy-3-buten-1-ol | 4.15 g | COCO[C@@H](CO)C=C | C6H12O3
